US06982274B2
2-Acetylamino-4-fluoro-5-(3-fluoro-benzoyl)-benzoic acid ethyl ester
A total of 812 mg of 2-acetylamino-4-fluoro-5-iodo-benzoic acid ethyl ester obtained in Production Example II-7-c was dissolved in 13.9 ml of anisole, and 956 mg of potassium carbonate, 356 mg of 3-fluorophenyl-boronic acid and 49 mg of bis(triphenylphosphine)palladium dichloride were added. After replacing the inside atmosphere of the reaction system with carbon monoxide gas, the mixture was stirred at 80° C. in an atmosphere of carbon monoxide (normal pressure) for 14 hours. After cooling to room temperature and replacing the inside atmosphere of the reaction system with nitrogen gas, water was added and the mixture was extracted with ethyl acetate. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:5), to give 234 mg of the title compound as pale yellow crystals.

reactant | 2-acetylamino-4-fluoro-5-iodo-benzoic acid ethyl ester | 812 mg | C(C)OC(C1=C(C=C(C(=C1)I)F)NC(C)=O)=O | C11H11FINO3
reactant | potassium carbonate | 956 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorophenyl-boronic acid | 356 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | carbon monoxide | [C]=O | CO
solvent | anisole | 13.9 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | bis(triphenylphosphine)palladium dichloride | 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | 2-Acetylamino-4-fluoro-5-(3-fluoro-benzoyl)-benzoic acid ethyl ester | 234 mg | C(C)OC(C1=C(C=C(C(=C1)C(C1=CC(=CC=C1)F)=O)F)NC(C)=O)=O | C18H15F2NO4
